US06184376B2
c) Preparation of (2R)-2-acetoxymethyl-4,4-diethoxy-butanol
Into a 10 ml 1 neck round bottom flask was charged the product of Example 14 step b) (3.84 g, 20 mmol), followed by addition of vinyl acetate (2.6 g, 30 mmol) and finally Lipase PS 30 (69 mg, purchased from Amano, Lombard, Ill.). The mixture was allowed to stir at ambient temperature for 16 hours. Progress of the reaction was closely monitored by TLC (2/1 hexane-EtOAc; stained with Ce2(SO4)3 and charred on hot plate; r.f. of diol is 0.1, monoacetate is 0.3, bis acetate is 0.75). The reaction mixture was diluted with CH2Cl2 and filtered through a 5 micron filter. The filter was washed with additional CH2Cl2. The filtrate was then concentrated in vacuo to afford the desired product.

reactant | vinyl acetate | 30 mmol, 2.6 g | C(C)(=O)OC=C | C4H6O2
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
reactant | monoacetate | CC(=O)[O-]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2R)-2-acetoxymethyl-4,4-diethoxy-butanol | C(C)(=O)OC[C@@H](CO)CC(OCC)OCC | C11H22O5
